US07638514B2
1.15 ml of dimethyl sulfoxide are added at −60° C. in the course of 5 minutes to 0.63 ml of oxalyl chloride in 50 ml of dichloromethane. After 40 minutes, a solution of 3.4 g of 1-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-3-(4-trifluoromethyl-phenoxy)-propan-2-ol in 30 ml of dichloromethane is added dropwise in the course of 10 minutes. After 40 minutes, 4.5 ml of triethylamine are added and the reaction mixture is slowly heated to room temperature. The reaction mixture is then poured into water and extracted with dichloromethane. After concentration of the organic phase and crystallisation from diethyl ether/hexane, 1-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-3-(4-trifluoromethyl-phenoxy)-propan-2-one is obtained. 1H-NMR (CDCl3) 300 MHz: 4.61 (d, 2H), 4.74 (s, 2H), 5.21 (s, 2H), 6.12 (t, 1H), 6.90 (s, 2H), 7.11 (d, 2H), 7.59 (d, 2H)

reactant | dimethyl sulfoxide | 1.15 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-3-(4-trifluoromethyl-phenoxy)-propan-2-ol | 3.4 g | ClC1=C(OCC(COC2=CC=C(C=C2)C(F)(F)F)O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H15Cl4F3O4
reactant | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-3-(4-trifluoromethyl-phenoxy)-propan-2-one | ClC1=C(OCC(COC2=CC=C(C=C2)C(F)(F)F)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H13Cl4F3O4
